US04333730
Preparation of 2,4-diaminophenyl γ-aminopropyl ether trihydrochloride
0.00806 mol (1.8 g) of 2-acetylamino-4-aminophenyl γ-aminopropyl ether is heated in 4.5 cm3 of concentrated hydrochloric acid for one hour on a boiling waterbath. On cooling, the expected product precipitates. After being filtered off, washed with ethyl ether and dried in vacuo over KOH, it melts at 260° C. with decomposition. A potentiometric determination is carried out in water by means of N/10 NaOH and the following result is obtained:

reactant | 2-acetylamino-4-aminophenyl γ-aminopropyl ether | 0.00806 mol, 1.8 g | NCCCOC1=C(C=C(C=C1)N)NC(C)=O | C11H17N3O2
reactant | hydrochloric acid | 4.5 cm3 | Cl | ClH
product | 2,4-diaminophenyl γ-aminopropyl ether trihydrochloride | Cl.Cl.Cl.NCCCOC1=C(C=C(C=C1)N)N | InChI=1S/C9H15N3O.3ClH/c10-4-1-5-13-9-3-2-7(11)6-8(9)12;;;/h2-3,6H,1,4-5,10-12H2;3*1H
